US06617347B1
4-(3-Amino-3-methylbutyl)phenol Hydrochloride
4-(3-Benzylamino-3-methylbutyl)phenol hydrochloride (3.84 g, 12.6 mmol) and 10% palladium on carbon (0.8g) were suspended in methanol (95 ml) in a hydrogenation apparatus. The vessel was sealed and shaken for 16 hours at 50° C. and a 60 psi hydrogen atmosphere. The resulting suspension was filtered through Celite and concentrated in vacuo to yield a white solid (1.46 g, 54%). NMR, MS.

reactant | 4-(3-Benzylamino-3-methylbutyl)phenol hydrochloride | 12.6 mmol, 3.84 g | Cl.C(C1=CC=CC=C1)NC(CCC1=CC=C(C=C1)O)(C)C
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.8g | [Pd] | Pd
solvent | methanol | 95 ml | CO | CH4O
product | 4-(3-Amino-3-methylbutyl)phenol Hydrochloride | 1.46 g, 54% | Cl.NC(CCC1=CC=C(C=C1)O)(C)C | InChI=1S/C11H17NO.ClH/c1-11(2,12)8-7-9-3-5-10(13)6-4-9;/h3-6,13H,7-8,12H2,1-2H3;1H
